US07396487B2
The Synthesis of 4-fluoro-4′-(2-methoxyethoxy)biphenyl-3-carbonitrile (Compound No. 2 in Table 1)
A mixture of 4-fluoro-4′-hydroxy-1,1′-biphenyl-3-carbonitrile (0.50 g, 2.35×10−3 mol), 1-bromo-2-methoxyethane (0.33 g, 2.35×10−3 mol), potassium iodide (0.04 g, 2.35×10−4 mol) and potassium carbonate (1.30 g, 9.40×10−3 mol) in butanone (20 cm3) was reacted, worked up and purified as described for compound 3 in Example 2. Yield 0.26 g (40%), GC purity (100%).

reactant | 4-fluoro-4′-hydroxy-1,1′-biphenyl-3-carbonitrile | 2.35×10−3 mol, 0.50 g | FC1=C(C=C(C=C1)C1=CC=C(C=C1)O)C#N | C13H8FNO
reactant | 1-bromo-2-methoxyethane | 2.35×10−3 mol, 0.33 g | BrCCOC | C3H7BrO
reactant | potassium iodide | 2.35×10−4 mol, 0.04 g | [I-].[K+]
reactant | potassium carbonate | 9.40×10−3 mol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 20 cm3 | CC(CC)=O | C4H8O
product | 4-fluoro-4′-(2-methoxyethoxy)biphenyl-3-carbonitrile | FC1=C(C=C(C=C1)C1=CC=C(C=C1)OCCOC)C#N | C16H14FNO2
